US09085540B2
A mixture of 5-chloro-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (200 mg), tert-butyl 4-(aminomethyl)piperidine-1-carboxylate (300 μL), diisopropylethylamine (240 μL), and N-methylpyrrolidone (0.8 mL) was reacted in a microwave reaction device at 160° C. for 2 hours. The mixture was subjected to liquid separation with ethyl acetate and water, and the organic phase was dried over magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was washed with diisopropyl ether to obtain tert-butyl 4-({[5-carbamoyl-3-ethyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}methyl)piperidine-1-carboxylate (195 mg) as a pale yellow solid.

reactant | 5-chloro-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 200 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C23H32ClN7O
reactant | tert-butyl 4-(aminomethyl)piperidine-1-carboxylate | 300 μL | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | diisopropylethylamine | 240 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methylpyrrolidone | 0.8 mL | CN1C(CCC1)=O | C5H9NO
product | tert-butyl 4-({[5-carbamoyl-3-ethyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}methyl)piperidine-1-carboxylate | 195 mg | C(N)(=O)C=1N=C(C(=NC1NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)NCC1CCN(CC1)C(=O)OC(C)(C)C)CC | C34H53N9O3
